US04070366
Preparation of 2,4-Dimethyl-3-acetyl-5-benzyl-pyrrole
A solution of 10 ml of aqueous hydriodic acid, 10 ml of acetic anhydride and 2 ml of 50% hypophosphorous acid containing 548 mg of 2,4-dimethyl-3acetyl pyrrole was stirred magnetically while a solution of 0.6 ml of benzaldehyde in 5 ml of acetic anhydride was slowly added over 20 mins. The solution was stirred for 10 mins, then poured into water. The crude product which separated was recrystallized from acetone (thimble) as nearly colourless irregular plates (85%, m.p. 165.5°-167° C. after a partial change to prismatic rods above 165° C. Anal. Cal. for C15H17NO: C, 79.26; H, 7.54; N, 6.16. Found: C, 79.22; H, 7.50; N, 6.18.

reactant | hydriodic acid | 10 ml | I | HI
reactant | hypophosphorous acid | 2 ml, 548 mg | [PH2](=O)O | H3O2P
reactant | 2,4-dimethyl-3acetyl pyrrole | CC=1NC=C(C1C(C)=O)C | C8H11NO
reactant | benzaldehyde | 0.6 ml | C(C1=CC=CC=C1)=O | C7H6O
solvent | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | 2,4-Dimethyl-3-acetyl-5-benzyl-pyrrole | CC=1NC(=C(C1C(C)=O)C)CC1=CC=CC=C1 | C15H17NO
